US05830920
0.67 g of 1,6-bis-O-(4'-methoxycarbonyl-biphenyl-4-yl)-2,5-O-methylene-D-mannitol was heated under reflux for 16 hours in 15 ml of concentrated sodium hydroxide solution and 15 ml of methanol; thereupon the mixture was evaporated and the residue was acidified with dilute hydrochloric acid. The precipitate of 1,6-bis-O-(4'-carboxy-biphenyl-4-yl)-2,5-O-methylene-D-mannitol which thereby formed was filtered off, dissolved in 5 ml of acetic anhydride and 5 ml of pyridine and stirred at room temperature for 16 hours. Now, the mixture was again evaporated, the residue was poured into dilute hydrochloric acid and the mixture was filtered; there was thus obtained 3,4-di-O-acetyl-1,6-bis-O-(4'-carboxy-biphenyl-4-yl)-2,5-O-methylene-D-mannitol in the form of colorless crystals, MS: m/z 669.4 ([M-H]-).

reactant | 1,6-bis-O-(4'-methoxycarbonyl-biphenyl-4-yl)-2,5-O-methylene-D-mannitol | 0.67 g | COC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC[C@@]1(O)[C@@H](O)[C@H](O)[C@H](OC1)COC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC | C35H34O10
solvent | sodium hydroxide | 15 ml | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 1,6-bis-O-(4'-carboxy-biphenyl-4-yl)-2,5-O-methylene-D-mannitol | C(=O)(O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC[C@@]1(O)[C@@H](O)[C@H](O)[C@H](OC1)COC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C33H30O10
